US06084138
Synthesis of (E)-(S)-2-Ethyl-4-(2,2,3-trimethylcyclopent-3-en-1yl)-2-buten-1-ol
(E)-(S)-2-Ethyl-4-(2,2,3-trimethylcyclopent-3-en-1-yl)-2-buten-1-al synthesized from 1R,5R)-α-pinene having an optical purity of 97% e.e. (available from Aldrich) was hydrogenated in the same manner as in Example 2 to obtain the title compound.

reactant | (E)-(S)-2-Ethyl-4-(2,2,3-trimethylcyclopent-3-en-1-yl)-2-buten-1-al | C(C)/C(/C=O)=C\C[C@H]1C(C(=CC1)C)(C)C | C14H22O
reactant | α-pinene | CC1=CCC2CC1C2(C)C | C10H16
product | (E)-(S)-2-Ethyl-4-(2,2,3-trimethylcyclopent-3-en-1yl)-2-buten-1-ol | C(C)/C(/CO)=C\C[C@H]1C(C(=CC1)C)(C)C | C14H24O
